US09428508B2
To a solution of anhydrous ethanol (500 mL) was added sodium (9 g, 0.39 mol) in pieces. After all the sodium dissolved, diethyl malonate (50 g, 0.31 mol) was added dropwise at 0° C., and the mixture was stirred at 0° C. for another 30 minutes, followed by the addition of (±)-ethyl 2-bromopropanoate (56.5 g, 0.31 mol) dropwise. The mixture was warmed to room temperature for 1 hour and then heated at reflux for 12 hours. After cooling to room temperature, most of solvents were removed, and the residue was diluted with ethyl acetate. The organic phase was washed by brine, dried over anhydrous sodium sulfate and evaporated to afford the product (±)-triethyl propane-1,1,2-tricarboxylate (67.8 g, yield 83.4%), which was used for the next step without purification.

reactant | sodium | 0.39 mol, 9 g | [Na] | Na
reactant | diethyl malonate | 0.31 mol, 50 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | (±)-ethyl 2-bromopropanoate | 0.31 mol, 56.5 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | (±)-triethyl propane-1,1,2-tricarboxylate | 67.8 g, yield 83.4% | C(C(C)C(=O)OCC)(C(=O)OCC)C(=O)OCC | C12H20O6
